US07902394B2
(b) Ethyl {3,4-difluoro-5-[(phenylmethyl)oxy]phenyl}acetate
5-bromo-1,2-difluoro-3-[(phenylmethyl)oxy]benzene (10 g, 33.3 mmol), diethyl propanedioate (6.9 g, 43.3 mmol), Cs2CO3 (108 g, 333 mmol), and dioxane (200 mL) were combined in a sealed flask and N2 was bubbled through the solution for 15 minutes. Pd(t-Bu3P)2 (1.7 g, 3.33 mmol) was then added and the flask was sealed. The solution was heated to 80° C. and stirred vigorously. After 8 h, the temperature was increased to 120° C. After 3 days, it was cooled and H2O and EtOAc were added. The aqueous layer washed with EtOAc (3×). The combined organic extracts were concentrated, and purified by Biotage (in two batches) to afford 1.82 g of the title compound (21%).

reactant | 5-bromo-1,2-difluoro-3-[(phenylmethyl)oxy]benzene | 33.3 mmol, 10 g | BrC=1C=C(C(=C(C1)F)F)OCC1=CC=CC=C1 | C13H9BrF2O
reactant | diethyl propanedioate | 43.3 mmol, 6.9 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | Cs2CO3 | 333 mmol, 108 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | dioxane | 200 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(t-Bu3P)2 | 3.33 mmol, 1.7 g | CC(C)(C)P(C(C)(C)C)C(C)(C)C.CC(C)(C)P(C(C)(C)C)C(C)(C)C.[Pd]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | Ethyl {3,4-difluoro-5-[(phenylmethyl)oxy]phenyl}acetate | 1.82 g, 21% | FC=1C=C(C=C(C1F)OCC1=CC=CC=C1)CC(=O)OCC | C17H16F2O3
